US09120776B2
A solution of 3-phenylpentanedicarboxylic acid (1.0 g, 4.80 mmol) in acetic anhydride (0.453 mL, 4.80 mmol) was stirred at 100° C. for 14 hr. The reaction mixture was concentrated, to the residue was added toluene (10 mL), and 4-amino-2-chlorobenzonitrile (0.733 g, 4.80 mmol) and TEA (0.669 mL, 4.80 mmol) were added thereto. The mixture was stirred at 80° C. for 3 hr, brine was added thereto at room temperature, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (solvent gradient; 10 to 100% ethyl acetate/hexane) to give 5-((3-chloro-4-cyanophenyl)amino)-5-oxo-3-phenylpentanoic acid (1.200 g, 3.50 mmol, 72.9%) as a pale-yellow powder.

reactant | 3-phenylpentanedicarboxylic acid | 4.80 mmol, 1.0 g | C1(=CC=CC=C1)C(CC(C(=O)O)C(=O)O)CC | C13H16O4
reactant | acetic anhydride | 4.80 mmol, 0.453 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
reactant | 4-amino-2-chlorobenzonitrile | 4.80 mmol, 0.733 g | NC1=CC(=C(C#N)C=C1)Cl | C7H5ClN2
solvent | brine | [Cl-].[Na+].O
product | 5-((3-chloro-4-cyanophenyl)amino)-5-oxo-3-phenylpentanoic acid | 3.50 mmol, 1.200 g, 72.9% | ClC=1C=C(C=CC1C#N)NC(CC(CC(=O)O)C1=CC=CC=C1)=O | C18H15ClN2O3
